US07723333B2
tert-Butyl [2-(4-hydroxyphenyl)ethyl]carbamate
4-(2-Aminoethyl)phenol (2.00 g, 14.58 mmol) was dissolved in THF (70 mL) and MeOH (10 mL) and TEA (1.47 g, 14.58 mmol) was added. The mixture was cooled in an ice-bath. Di-tert-butyl dicarbonate (3.18 g, 14.58 mmol) was added. The mixture was stirred for 1 h at 0° C. and left at rt overnight. The solvent was evaporated and column chromatography of the crude product (ISOLUTE SI, (20 g), eluated with Heptane/EtOAc (90:10), Heptane/EtOAc (70:30)) afforded the title compound (3.47 g, 100%). 1H NMR (500 MHz, CD3OD): δ 1.43 (s, 9H), 2.66 (t, 2H), 3.20 (t, 2H), 6.72 (d, 2H), 7.02 (d, 2H); Mass Spectrum: M−H+ 236.

reactant | 4-(2-Aminoethyl)phenol | 14.58 mmol, 2.00 g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | MeOH | 10 mL | CO | CH4O
reactant | Di-tert-butyl dicarbonate | 14.58 mmol, 3.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | tert-Butyl [2-(4-hydroxyphenyl)ethyl]carbamate | 3.47 g, 100% | OC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C13H19NO3
